US05625080
Reaction of chloro-oxo-acetic acid 2-oxo-3-phenyl-2,3-dihydro-benzofuran-5-yl ester prepared as Example 11 reacted in toluene at the reflux with p-nitrophenol gave after purification oxalic acid (4-nitro-phenyl) ester (2-oxo-3-phenyl-2,3-dihydro-benzofuran-5-yl) ester (33% yield). Analysis C,63.5; H,3.3; N,3.5; C22H13NO8 requires C,63.0; H,3.1; N,3.3%. Mass Spectrometry shows a molecular ion at 419.

reactant | chloro-oxo-acetic acid 2-oxo-3-phenyl-2,3-dihydro-benzofuran-5-yl ester | O=C1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)OC(C(=O)Cl)=O | C16H9ClO5
reactant | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | oxalic acid (4-nitro-phenyl) ester (2-oxo-3-phenyl-2,3-dihydro-benzofuran-5-yl) ester | 33% yield | O=C1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)OC(C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])=O | C22H13NO8
